US07501421B2
Preparation of 4-(4-Aminobenzoxazol-2-yl)piperazine-1-carboxylic acid benzyl ester
A mixture of 4-(4-nitrobenzoxazol-2-yl)piperazine-1-carboxylic acid benzyl ester, from Example 7 (35.7 mmol theory), SnCl2 (40.25 g, 178.4 mmol), and concentrated HCl solution (4.46 mL) in EtOH was heated at 70° C. overnight, cooled, diluted with 20% MeOH in CH2Cl2, neutralized with NaOH to pH 8-10 and extracted with CHCl3. The extracts were combined, dried over Na2SO4, concentrated, and purified by chromatography with 1-5% MeOH in CH2Cl2 to provide the title compound (3.0 g, 24% overall yield from 4-nitro-3H-benzoxazole-2-thione), characterized by NMR and mass spectral analyses.

reactant | 4-(4-nitrobenzoxazol-2-yl)piperazine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1OC2=C(N1)C(=CC=C2)[N+](=O)[O-] | C19H18N4O5
reactant | SnCl2 | 178.4 mmol, 40.25 g | Cl[Sn]Cl
reactant | HCl | 4.46 mL | Cl | ClH
reactant | NaOH | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
solvent | MeOH | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(4-Aminobenzoxazol-2-yl)piperazine-1-carboxylic acid benzyl ester | 3.0 g, 24% | C(C1=CC=CC=C1)OC(=O)N1CCN(CC1)C=1OC2=C(N1)C(=CC=C2)N | C19H20N4O3
